US07566781B2
4-(pyridin-2-ylmethylsulfanyl)benzenecarboxylic acid
An ethanol/water mixed solution (2/1, 60 mL) of 4-mercaptobenzenecarboxylic acid (1.0 g), 2-chloromethylpyridine hydrochloride (2.1 g) and potassium carbonate (4.5 g) was heated under reflux for 4 hours. The organic solvent was evaporated off under reduced pressure, and aqueous 5 N hydrochloric acid solution was added to the residue until it became acidic. Water was evaporated off under reduced pressure, and DMF was added to the resulting residue and filtered. The filtrate was concentrated under reduced pressure, and the resulting residue was purified through silica gel column chromatography (chloroform/methanol=9/1 to 4/1) to obtain the entitled compound (650 mg).

reactant | 4-mercaptobenzenecarboxylic acid | 1.0 g | SC1=CC=C(C=C1)C(=O)O | C7H6O2S
reactant | 2-chloromethylpyridine hydrochloride | 2.1 g | Cl.ClCC1=NC=CC=C1
reactant | potassium carbonate | 4.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol water | 60 mL | C(C)O.O
product | 4-(pyridin-2-ylmethylsulfanyl)benzenecarboxylic acid | 650 mg | N1=C(C=CC=C1)CSC1=CC=C(C=C1)C(=O)O | C13H11NO2S
